US04678855
4-(2-Hydroxyethylsulfonyl)benzenesulfonamide
4-(2-Hydroxyethylthio)benzenesulfonamide (94.3 g, 0.40 mol) was added portionwise to a stirred solution of Oxone® (368.9 g, 0.60 mols) in H2O (3600 mL). After 18 hours the white solid was collected, washed with H2O and dried to give 72.6 g, mp 156°-162° C. An additional 12.3 g was obtained from the aqueous filtrate by extraction with ethyl acetate (3×1000 mL). Recrystallization from acetonitrile gave material with mp 163°-165° C.

reactant | 4-(2-Hydroxyethylthio)benzenesulfonamide | 0.40 mol, 94.3 g | OCCSC1=CC=C(C=C1)S(=O)(=O)N | C8H11NO3S2
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | H2O | 3600 mL | O | H2O
product | 4-(2-Hydroxyethylsulfonyl)benzenesulfonamide | OCCS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H11NO5S2
